US04853410
A solution of 40.5 g (0.25 mol) m-trifluoromethylphenol in 100 ml 2.5N sodium hydroxide was heated at reflux and 20.4 ml (0.25 mol) beta-butyrolactone was added dropwise over 50 minutes. The reaction was cooled to 0° C. and 3 ml concentrated hydrochloric acid was added to bring the pH to 7. The reaction was extracted with 3×100 ml diethyl ether. The pH of the aqueous was brought to 2 with 20 ml concentrated hydrochloric acid and then the aqueous was extracted with 2×100 ml diethyl ether. The latter combined ether extracts were washed with 100 ml water and 100 ml brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give 9.4 g (15%) of 3-[3-(trifluoromethyl)phenoxy]-butyric acid.

reactant | m-trifluoromethylphenol | 0.25 mol, 40.5 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | beta-butyrolactone | 0.25 mol, 20.4 ml | C1(CC(C)O1)=O | C4H6O2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | sodium hydroxide | 2.5N, 100 ml | [OH-].[Na+]
product | 3-[3-(trifluoromethyl)phenoxy]-butyric acid | 9.4 g, 15% | FC(C=1C=C(OC(CC(=O)O)C)C=CC1)(F)F | C11H11F3O3
